US08314087B2
Isobutyl 5-(1-(2-(7-methoxyquinolin-4-yloxy)ethyl)-6-oxo-1,6-dihydropyridin-3-yl)-2-methylphenylcarbamate
To a solution of 5-(3-amino-4-methylphenyl)-1-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridin-2(1H)-one (0.10 g, 0.25 mmol) in 10 mL of CH2Cl2 at rt was added triethylamine (0.083 ml, 0.60 mmol) followed by isobutyl chlorocarbonate (0.048 ml, 0.37 mmol). The reaction was stirred at rt for 4 hours and was then concentrated in vacuo. The residue was dissolved in 50 mL of EtOAc and the resulted organic phase was washed with 20 mL of satd. NaHCO3 followed by 20 mL of brine. The organic solution was dried over Na2SO4 and concentrated in vacuo. The residue was washed with 50% hex/EtOAc to give white solid as desired product (0.0879 g, 70% yield). MS (ESI pos. ion) m/z (MH+): 502.1. Calc'd Exact Mass for C29H31N3O5: 501.23.

reactant | 5-(3-amino-4-methylphenyl)-1-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridin-2(1H)-one | 0.25 mmol, 0.10 g | NC=1C=C(C=CC1C)C=1C=CC(N(C1)CCOC1=CC=NC2=CC(=CC=C12)OC)=O | C24H23N3O3
reactant | triethylamine | 0.60 mmol, 0.083 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chlorocarbonate | 0.37 mmol, 0.048 ml | C(OCC(C)C)(=O)Cl | C5H9ClO2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Isobutyl 5-(1-(2-(7-methoxyquinolin-4-yloxy)ethyl)-6-oxo-1,6-dihydropyridin-3-yl)-2-methylphenylcarbamate | 0.0879 g, 70% yield | COC1=CC=C2C(=CC=NC2=C1)OCCN1C=C(C=CC1=O)C=1C=CC(=C(C1)NC(OCC(C)C)=O)C | C29H31N3O5
